US09024041B2
Intermediate D3: 1-(4-((4-Aminonaphthalen-1-yl)oxy)pyridin-2-yl)-3-cyclopropylurea
A solution of 1-cyclopropyl-3-(4-((4-nitronaphthalen-1-yl)oxy)pyridin-2-yl)urea (118 mg, 0.324 mmol) in a mixture of MeOH (20 mL) and AcOH (0.5 mL) was subjected to hydrogenation by passage through a Thales H-cube (1.0 mL min−1, 25° C., 70 mm, 10% Pt—C Cat-Cart, full hydrogen mode). The reaction mixture was evaporated in vacuo and the residue was partitioned between DCM (20 mL) and saturated aq. NaHCO3 (10 mL). The organic phase was separated and was washed with brine (10 mL), and then dried and evaporated in vacuo to afford the title compound, Intermediate D3, as a brown solid (90 mg, 83%); Rt 1.52 min (Method 2); m/z 335 (M+H)+ (ES+).

reactant | 1-cyclopropyl-3-(4-((4-nitronaphthalen-1-yl)oxy)pyridin-2-yl)urea | 0.324 mmol, 118 mg | C1(CC1)NC(=O)NC1=NC=CC(=C1)OC1=CC=C(C2=CC=CC=C12)[N+](=O)[O-] | C19H16N4O4
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 20 mL | CO | CH4O
solvent | AcOH | 0.5 mL | CC(=O)O | C2H4O2
catalyst | Pt—C | [Pt] | Pt
product | 1-(4-((4-Aminonaphthalen-1-yl)oxy)pyridin-2-yl)-3-cyclopropylurea | NC1=CC=C(C2=CC=CC=C12)OC1=CC(=NC=C1)NC(=O)NC1CC1 | C19H18N4O2
